US07572809B2
Similar procedure as described in example 376 was used, starting from isopropanol, (1-Chloro-7-fluoro-6-methoxy-isoquinolin-3-yl)-(5-cyclopropyl-1H-pyrazol-3-yl)-amine to give (5-Cyclopropyl-1H-pyrazol-3-yl)-(7-fluoro-1-isopropoxy-6-methoxy-isoquinolin-3-yl)-amine. LC-MS: m/e 357(MH+).

reactant | (1-Chloro-7-fluoro-6-methoxy-isoquinolin-3-yl)-(5-cyclopropyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=C(C=C12)F)OC)NC1=NNC(=C1)C1CC1 | C16H14ClFN4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | (5-Cyclopropyl-1H-pyrazol-3-yl)-(7-fluoro-1-isopropoxy-6-methoxy-isoquinolin-3-yl)-amine | C1(CC1)C1=CC(=NN1)NC=1N=C(C2=CC(=C(C=C2C1)OC)F)OC(C)C | C19H21FN4O2
